US07173025B1
Diethyl azodicarboxylate (3 ml) was added over 15 minutes to a stirred mixture of 1-(4-pyridyl)piperidin-4-ol (3.39 g), 3-(N-tert-butoxycarbonylamino)phenol (Chemical Abstracts, vol. 119, abstract 139113; PCT Patent Application WO 9306085; 3.98 g), triphenylphosphine (4.99 g) and THF (150 ml) which had been cooled to 4° C. The resultant mixture was stirred for 48 hours at ambient temperature. The solvent was evaporated and the residue was purified by column chromatography using a 9:1 mixture of methylene chloride and methanol as eluent. The resultant foam was crystallised from diethyl ether to give tert-butyl N-{3-[1-(4-pyridyl)piperidin-4-yloxy]phenyl}carbamate (4.65 g), m.p. 165-166° C.

reactant | Diethyl azodicarboxylate | 3 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 1-(4-pyridyl)piperidin-4-ol | 3.39 g | N1=CC=C(C=C1)N1CCC(CC1)O | C10H14N2O
reactant | 3-(N-tert-butoxycarbonylamino)phenol | 3.98 g | C(C)(C)(C)OC(=O)NC=1C=C(C=CC1)O | C11H15NO3
reactant | triphenylphosphine | 4.99 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | tert-butyl N-{3-[1-(4-pyridyl)piperidin-4-yloxy]phenyl}carbamate | 4.65 g | N1=CC=C(C=C1)N1CCC(CC1)OC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C21H27N3O3
